US04620865
5-Chloro-1-(3-chlorophenyl)-N-methyl-1H-pyrazole-4-thiocarboxamide
A solution of 3.0 g of 5-chloro-1-(3-chlorophenyl)-N-methyl-1H-pyrazole-4-carboxamide and 6.5 g of Lawesson's Reagent in 150 ml toluene was refluxed for one hour. The solution was cooled and the volatiles were removed under reduced pressure. The residue was chromatographed over silica gel eluting with methylene chloride. The fractions containing the major component were combined and the solvent was evaporated therefrom to afford 1.6 g, following recrystallization from toluene, of 5-chloro-1-(3-chlorophenyl)-N-methyl-1H-pyrazole-4-thiocarboxamide. Yield 56%. mp=128°-130° C.

reactant | 5-chloro-1-(3-chlorophenyl)-N-methyl-1H-pyrazole-4-carboxamide | 3.0 g | ClC1=C(C=NN1C1=CC(=CC=C1)Cl)C(=O)NC | C11H9Cl2N3O
reactant | Lawesson's Reagent | 6.5 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-1-(3-chlorophenyl)-N-methyl-1H-pyrazole-4-thiocarboxamide | Yield 56% | ClC1=C(C=NN1C1=CC(=CC=C1)Cl)C(NC)=S | C11H9Cl2N3S
